Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])=[C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-6.09675872044
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],5.6812520773
[H:15].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])[H:14]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15],-4.48772880624
[C:4]([H:5])=[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]=[C:10]([H:11])[H:12],-6.7985285201400005
[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.5372883236900003
[C:1]#[C:2][C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9].[H:10]>>[C:1]#[C:2][C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10],-4.46412547008
[H:10].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][C:8][H:9]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10],-4.37114202182
[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10]>>[C:3][H:4].[H:1][C:2]([H:5])=[C:6][C:7]([H:8])([H:9])[H:10],1.88297671112
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.95572087852
[H:1][O:2][C:3]#[C:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[C:5]([O:6][H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3]#[C:4],5.69256950959
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]=[C:10]([H:11])[H:12]>>[C:4]([H:5])([H:6])=[C:7][O:8][C:9]=[C:10]([H:11])[H:12].[H:1][C:2][H:3],3.4815304371499995
[H:1][C:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.76061400289
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9],1.34924669461
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4]#[C:5][H:6]>>[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.1463449789599975
[O:1][C:2]([H:3])([H:4])[C:5]([C:6]#[C:7][H:8])=[C:9]([H:10])[H:11]>>[H:8].[O:1][C:2]([H:3])([H:4])[C:5]([C:6]#[C:7])=[C:9]([H:10])[H:11],5.7806036462
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1],7.39205333702
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-0.8086359010699999
[C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9],-5.20550311
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:7]([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6],4.7038742573
[C:3]([H:4])([H:5])=[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.78954710989
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[C:8]([H:9])([H:10])=[C:11]=[C:12]([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[H:7],0.5752761384089999
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],2.51824004823
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][C@@:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],4.5710761427
[O:1]=[C:2]([C:3]([H:4])[H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])[H:5].[O:1]=[C:2]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],5.17910691166
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:9][H:10].[H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],-3.80803428842
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],5.98515852951
[O:1][C@:2]1([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]1([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15],-0.428041510239
